US07034153B2
5-amino-4-cyano-2,3-dimethyl-1-(2-methyl-4-methoxyphenyl)pyrrole
To a solution of 2-methyl-4-methoxyaniline (10 g) in toluene (120 ml), acetoin and p-toluenesulfonic acid hydrate (44 mg) were added. The mixture was refluxed with heating for 2 hours. After the reaction mixture was cooled to room temperature, malononitrile (4.6 ml) was added to the reaction mixture, and it was refluxed with heating for 12 hours. The cooled reaction mixture was concentrated. The residue was diluted with ether, and filtered to give the title compound (5.73 g) having the following physical data

reactant | 2-methyl-4-methoxyaniline | 10 g | CC1=C(N)C=CC(=C1)OC | C8H11NO
reactant | p-toluenesulfonic acid hydrate | 44 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | malononitrile | 4.6 ml | C(CC#N)#N | C3H2N2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetoin | OC(C(C)=O)C | C4H8O2
product | 5-amino-4-cyano-2,3-dimethyl-1-(2-methyl-4-methoxyphenyl)pyrrole | 5.73 g | NC1=C(C(=C(N1C1=C(C=C(C=C1)OC)C)C)C)C#N | C15H17N3O
